US07297715B2
Step A: Methyl 2-(4-(benzyloxy)phenoxy)butanoate
A mixture of 4-benzyloxyphenol (30 g, 0.15 mol), cesium carbonate (58.6 g, 0.18 mol) and methyl 2-bromobutanoate (40.7 g, 0.22 mol) in CH3CN (350 mL) was kept at reflux for 20 hr. After cooling, the mixture was filtered and concentrated under reduced pressure and chromatographed over silica gel using AcOEt/hexanes to give the title compound 41.0 g (91%).

reactant | 4-benzyloxyphenol | 0.15 mol, 30 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | cesium carbonate | 0.18 mol, 58.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 2-bromobutanoate | 0.22 mol, 40.7 g | BrC(C(=O)OC)CC | C5H9BrO2
solvent | CH3CN | 350 mL | CC#N | C2H3N
product | Methyl 2-(4-(benzyloxy)phenoxy)butanoate | 41.0 g, 91% | C(C1=CC=CC=C1)OC1=CC=C(OC(C(=O)OC)CC)C=C1 | C18H20O4
